US05298652
A solution of 4.0 g (6.83 mmol) of 3-[3-(3-nitrophenoxy)propoxy]-5-(octadecyloxy)benzoic acid in 65 ml of thionyl chloride was stirred at reflux for 2.5 hours. The excess thionyl chloride was removed at reduced pressure and the residual solid acid chloride was dissolved in 75 ml of methylene chloride and added dropwise to a stirred, ice bath cooled solution of 1.5 ml of diethyl iminodiacetate (8.5 mmol) and 1.9 ml (13.7 mmol) of triethylamine in 25 ml of methylene chloride. The reaction mixture was stirred in the cooling bath for 30 minutes, at room temperature for 20 hours and then was washed with NaHCO3 solution. The dried organic layer was concentrated at reduced pressure to an oil which was purified by HPLC using 25% ethyl acetate-hexane to give 4.32 g (84% yield) of N-(2-ethoxy-2-oxoethyl)-N-[3-[3-(3-nitrophenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine ethyl ester as an oil. The structure was confirmed by the nmr and mass spectra.

reactant | 3-[3-(3-nitrophenoxy)propoxy]-5-(octadecyloxy)benzoic acid | 6.83 mmol, 4.0 g | [N+](=O)([O-])C=1C=C(OCCCOC=2C=C(C(=O)O)C=C(C2)OCCCCCCCCCCCCCCCCCC)C=CC1 | C34H51NO7
reactant | diethyl iminodiacetate | 8.5 mmol, 1.5 ml | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
reactant | triethylamine | 13.7 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 65 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(2-ethoxy-2-oxoethyl)-N-[3-[3-(3-nitrophenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine ethyl ester | 4.32 g, 84% yield | C(C)OC(CN(C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC(=CC=C1)[N+](=O)[O-])=O)CC(=O)OCC)=O | C42H64N2O10
